data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-c1nccnc1_2-C(C)(C)C_3-C1CC(C)CCC1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1nccnc1)C=O","C(C(C)(C)C)(C1CC(C)CCC1)=O"],"products_smiles": ["C(C(C)(C)C)(C1CC(C)CCC1)=C(C=O)c1nccnc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccnc1)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(C1CC(C)CCC1)([O-])C(C=O)c1nccnc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of C(C)(C)C, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(C1CC(C)CCC1)(O)C(C=O)c1nccnc1","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(C1CC(C)CCC1)(O)C=C([O-])c1nccnc1","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C(C)(C)C)(C1CC(C)CCC1)=C(C=O)c1nccnc1","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
{"reaction_id": "NR-146_1-c2ccc(OC)cc2_2-C(C)(C)C_3-c2ccc(N(=O)=O)cc2","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(c2ccc(OC)cc2)(C(C)(C)C)","O=C(O)c2ccc(N(=O)=O)cc2","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)c2ccc(N(=O)=O)cc2)(c2ccc(OC)cc2)(C(C)(C)C)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)c2ccc(N(=O)=O)cc2","rationale": "The acidic proton of c2ccc(N(=O)=O)cc2–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(c2ccc(OC)cc2)(C(C)(C)C).[O-]C(=O)c2ccc(N(=O)=O)cc2","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)c2ccc(N(=O)=O)cc2)(c2ccc(OC)cc2)(C(C)(C)C)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
